US05114461
Thionyl chloride (30 ml) was added at 0°-5° C. to a stirred solution of 3-methylamino-3-phenylpropionic acid (39 g) in anhydrous methanol and the mixture stirred at ambient temperature for 5 hours. The solution was evaporated under reduced pressure and the residue treated with 2N sodium carbonate (350 ml). The solution was extracted with dichloromethane (2×100 ml). The combined extracts were washed with water (250 ml) dried over magnesium sulphate and evaporated under reduced pressure to give methyl-3-methylamino-3-phenylpropionate (36.9 g) as a clear orange oil.

reactant | Thionyl chloride | 30 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 3-methylamino-3-phenylpropionic acid | 39 g | CNC(CC(=O)O)C1=CC=CC=C1 | C10H13NO2
reactant | methanol | CO | CH4O
product | methyl-3-methylamino-3-phenylpropionate | 36.9 g | COC(CC(C1=CC=CC=C1)NC)=O | C11H15NO2
